US06861419B2
7-(2,4-Dimethoxy-phenyl)-5-(4-hydroxy-6-methyl-2-oxo-2H-pyran-3-yl)-2,2-dimethyl-2,3,6,7-tetrahydro-[1,4]thiazepine-3-carboxylic acid (0.03 g), prepared as in Example 2, was dissolved in DMF (2 mL) and 2-amino-propionic acid tert-butyl ester (0.012 g), N-methylmorpholine (0.2 ml) and PyBOP (0.034 g) were added to the solution at room temperature. The mixture was stirred while the progress of the reaction was followed by analytical HPLC and when complete (16 hours) the solvent was removed in vacuo. Purification of product by preparative HPLC (RPC18 column, 2-70% acetonitrile/water containing 0.1% HCl) provided 2-({1-[7-(2,4-dimethoxy-phenyl)-5-(4-hydroxy-6-methyl-2-oxo-2H-pyran-3-yl)-2,2-dimethyl-2,3,6,7-tetrahydro-[1,4]thiazepin-3-yl]-methanoyl }-amino)-propionic acid tert-butyl ester (18 mg) as an off-white powder. LCMS: M+ 575.0.

reactant | 7-(2,4-Dimethoxy-phenyl)-5-(4-hydroxy-6-methyl-2-oxo-2H-pyran-3-yl)-2,2-dimethyl-2,3,6,7-tetrahydro-[1,4]thiazepine-3-carboxylic acid | 0.03 g | COC1=C(C=CC(=C1)OC)C1CC(=NC(C(S1)(C)C)C(=O)O)C=1C(OC(=CC1O)C)=O | C22H25NO7S
reactant | N-methylmorpholine | 0.2 ml | CN1CCOCC1 | C5H11NO
reactant | PyBOP | 0.034 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | 2-amino-propionic acid tert-butyl ester | 0.012 g | C(C)(C)(C)OC(C(C)N)=O | C7H15NO2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-({1-[7-(2,4-dimethoxy-phenyl)-5-(4-hydroxy-6-methyl-2-oxo-2H-pyran-3-yl)-2,2-dimethyl-2,3,6,7-tetrahydro-[1,4]thiazepin-3-yl]-methanoyl }-amino)-propionic acid tert-butyl ester | 18 mg | C(C)(C)(C)OC(C(C)NC(=O)C1C(SC(CC(=N1)C=1C(OC(=CC1O)C)=O)C1=C(C=C(C=C1)OC)OC)(C)C)=O | C29H38N2O8S
